US07442839B2
ii) 1-(Cyclopentylsulfonyl)-3-iodo-5-methylbenzene
A solution of 1-(cyclopentylthio)-3-iodo-5-methylbenzene (440 mg) in DCM (20 ml) at 20° under nitrogen was treated with 3-chloroperoxybenzoic acid (1.046 g, 57-86% pure) and the mixture stirred at 20° for 2 h. 0.5M Aqueous sodium metabisulphite solution was added and the mixture was vigorously stirred at 20° for 18 h. The layers were separated and the organic phase washed with 0.5M aqueous sodium metabisulphite solution. The organic phase was dried (Na2SO4) and the solvent evaporated in vacuo. The residue was purified using a SPE bond elut cartridge (2×10 g, silica). Elution with DCM (5 vols) gave the title compound (425 mg). LCMS RT=3.36 min.

reactant | 1-(cyclopentylthio)-3-iodo-5-methylbenzene | 440 mg | C1(CCCC1)SC1=CC(=CC(=C1)C)I | C12H15IS
reactant | 3-chloroperoxybenzoic acid | 1.046 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium metabisulphite | 0.5M | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-(Cyclopentylsulfonyl)-3-iodo-5-methylbenzene | 425 mg | C1(CCCC1)S(=O)(=O)C1=CC(=CC(=C1)C)I | C12H15IO2S
